US05523152
N,N'-Di(acryloyloxyethyl)-N,N'-dimethyl phthalamide (DAMP)
A one liter, three necked flask was equipped with overhead stirrer, nitrogen atmosphere and an addition funnel. The flask was charged with 100 g of N,N'-di(hydroxyethyl)-N,N'-dimethyl phthalamide (0.36 mol.), 67.8 g of triethylamine (0.72 mol.), 500 ml of tetrahydrofuran and 2 g of phenothiazine. Next, 68 g of acryloyl chloride (0.75 mol.) was slowly added to the flask over one hour. The reaction was stirred for an additional hour. The triethylamine hydrochloride salt was removed by filtration and the remaining mother liquor was evaporated with a rotoevaporator to yield a light brown liquid. The liquid was dissolved in chloroform and washed with NaCl(aq.), NH4OH(10%), NaCl(aq.) and dried over MgSO4. The chloroform was removed with a rotoevaporator to yield 60 g (43%) of a light brown liquid. The product was confirmed by IR and 13C NMR.

reactant | N,N'-di(hydroxyethyl)-N,N'-dimethyl phthalamide | 0.36 mol, 100 g | OCCN(C(C=1C(C(=O)N(C)CCO)=CC=CC1)=O)C | C14H20N2O4
reactant | triethylamine | 0.72 mol, 67.8 g | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | acryloyl chloride | 0.75 mol, 68 g | C(C=C)(=O)Cl | C3H3ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | phenothiazine | 2 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
product | N,N'-Di(acryloyloxyethyl)-N,N'-dimethyl phthalamide | 60 g, 43% | C(C=C)(=O)OCCN(C(C=1C(C(=O)N(C)CCOC(C=C)=O)=CC=CC1)=O)C | C20H24N2O6
